US09029538B2
A solution of 4-bromo-6,7-dimethoxyquinoline (1.0 g, 3.73 mmol) in dry THF (20 mL) was cooled to −78° C. A solution of 2.5M n-butyllithium in hexanes (1.50 mL, 3.73 mmol) was added and stirred 15 min. A solution of 4-bromo-2-fluoro-benzaldehyde (0.757 g, 3.73 mmol) in THF (10 mL) was added dropwise over 5 min. After stirring 30 min. at −78° C., saturated ammonium chloride solution (1 mL) was added. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water. After the solvent was removed under vacuum, the residue was purified by chromatography with 0-5% MeOH in dichloromethane to give (4-bromo-2-fluoro-phenyl)-(6,7-dimethoxy-quinolin-4-yl)-methanol in 52% yield. 1H NMR (CDCl3) δ: 8.63 (d, 1H, J=4.1 Hz), 7.57 (d, 1H, J=4.7 Hz), 7.34 (s, 1H), 7.25-7.17 (m, 2H), 7.08 (s, 1H), 6.67 (s, 1H), 4.02-3.96 (m, 1H), 3.94 (s, 3H), 3.88 (s, 3H).

reactant | 4-bromo-6,7-dimethoxyquinoline | 3.73 mmol, 1.0 g | BrC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10BrNO2
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 4-bromo-2-fluoro-benzaldehyde | 3.73 mmol, 0.757 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-bromo-2-fluoro-phenyl)-(6,7-dimethoxy-quinolin-4-yl)-methanol | 52% yield | BrC1=CC(=C(C=C1)C(O)C1=CC=NC2=CC(=C(C=C12)OC)OC)F | C18H15BrFNO3
